US05739333
N-{6-[2-(5-Bromopyrimidin-2-yloxy)ethoxy]-2-(2-hydroxyethylamino)-5-(2-methoxyphenoxy)pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide:
A mixture of N-{6-[2-(5-bromopyrimidin-2-yloxy)ethoxy]-5-(2-methoxy-phenoxy)-2-methylsulfonylpyrimidin-4-yl}-4-tert-butylbenzenesulfonamide (500 mg), ethanolamine (172 mg) and dimethylacetamide (4 ml) is heated with stirring at 110°-120° C. for 20 hours. After cooling, to the mixture is added an aqueous ammonium chloride solution, and the mixture is extracted with ethyl acetate. The extract is washed with water, dried, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform:ethyl acetate=3:1) to give the title compound (57 mg) as a powder.

reactant | N-{6-[2-(5-bromopyrimidin-2-yloxy)ethoxy]-5-(2-methoxy-phenoxy)-2-methylsulfonylpyrimidin-4-yl}-4-tert-butylbenzenesulfonamide | 500 mg | BrC=1C=NC(=NC1)OCCOC1=C(C(=NC(=N1)S(=O)(=O)C)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)OC1=C(C=CC=C1)OC | C28H30BrN5O8S2
reactant | ethanolamine | 172 mg | C(O)CN | C2H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylacetamide | 4 ml | CC(=O)N(C)C | C4H9NO
product | N-{6-[2-(5-Bromopyrimidin-2-yloxy)ethoxy]-2-(2-hydroxyethylamino)-5-(2-methoxyphenoxy)pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide | 57 mg | BrC=1C=NC(=NC1)OCCOC1=C(C(=NC(=N1)NCCO)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)OC1=C(C=CC=C1)OC | C29H33BrN6O7S
